US08629158B2
a) 5-((5-Fluoropyridin-2-yl)methoxy)-2-(tetrahydro-2H-pyran-2-yl)pyridazin-3(2H)-one (CAS Registry Number 1008518-41-3) (WO 2008/022979 to Stenkamp et al., which is hereby incorporated by reference in its entirety)
5-Hydroxy-2-(tetrahydro-2H-pyran-2-yl)pyridazin-3(2H)-one (2.62 g, 13.4 mmol) (this compound was prepared in accordance with the procedure of Stenkamp et al., WO 2008022979), 2-(bromomethyl)-5-fluoropyridine (7.6 g, 40.2 mmol) and K2CO3 (9.24 g, 67 mmol) were stirred in DMF (40 ml) and CH2Cl2 (40 ml) for 48 h. The mixture was diluted with CH2Cl2, washed with 5% LiCl solution (4×) and concentrated. The residue was purified by column chromatography (40 g ISCO column column eluting with methylene chloride and a 10:1 methanol/ammonium hydroxide mixture; gradient 100% methylene chloride to 95% methylene chloride) to yield the title compound (1.1 g, 27%) as a light brown solid: 1H NMR (300 MHz, CDCl3) δ 8.47 (s, 1H), 7.73 (d, J=2.9 Hz, 1H), 7.47-7.43 (m, 2H), 6.19 (d, J=2.9 Hz, 1H), 6.03-5.98 (dd, J=10.7, 2.0 Hz, 1H), 5.12 (s, 2H), 4.18-4.08 (m, 1H), 3.78-3.69 (td, J=11.6, 2.6 Hz, 1H), 2.21-2.00 (m, 2H), 1.75-1.60 (m, 4H).

reactant | 5-Hydroxy-2-(tetrahydro-2H-pyran-2-yl)pyridazin-3(2H)-one | 13.4 mmol, 2.62 g | OC1=CC(N(N=C1)C1OCCCC1)=O | C9H12N2O3
reactant | 2-(bromomethyl)-5-fluoropyridine | 40.2 mmol, 7.6 g | BrCC1=NC=C(C=C1)F | C6H5BrFN
reactant | K2CO3 | 67 mmol, 9.24 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | 5-((5-Fluoropyridin-2-yl)methoxy)-2-(tetrahydro-2H-pyran-2-yl)pyridazin-3(2H)-one | 1.1 g, 27% | FC=1C=CC(=NC1)COC1=CC(N(N=C1)C1OCCCC1)=O | C15H16FN3O3
